US06320078B1
2.9 g (11 mmole) of ethyl 4-(2-ethoxy-2-oxoethoxy)benzoate, 1.4 g (12 mmole) of 3-picolylamine and 2.1 g (1.3 mmole) of DBU were dissolved in ethanol (12 ml), and reaction was then carried out for 24 hours. After the reaction mixture had been concentrated, partition was carried out between ethyl acetate and water. The organic layer was then treated in an ordinary manner to obtain 3.3 g (yield: 90%) of ethyl 4-{2-oxo-2-[(pyridin-3-ylmethyl)amino]ethoxy}benzoate.

reactant | ethyl 4-(2-ethoxy-2-oxoethoxy)benzoate | 11 mmole, 2.9 g | C(C)OC(COC1=CC=C(C(=O)OCC)C=C1)=O | C13H16O5
reactant | 3-picolylamine | 12 mmole, 1.4 g | N1=CC(=CC=C1)CN | C6H8N2
reactant | DBU | 1.3 mmole, 2.1 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | ethyl 4-{2-oxo-2-[(pyridin-3-ylmethyl)amino]ethoxy}benzoate | 3.3 g, yield: 90% | O=C(COC1=CC=C(C(=O)OCC)C=C1)NCC=1C=NC=CC1 | C17H18N2O4
